* File: FullAdderMirror.pex.netlist.pex
* Created: Sat Apr 11 21:52:29 2020
* Program "Calibre xRC"
* Version "v2017.3_29.23"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_FULLADDERMIRROR_NET16 1 2 8
c26 8 0 0.0183222f
c27 2 0 0.00673703f
c28 1 0 0.0131492f
r29 4 8 2.72321
r30 2 8 102.4
r31 1 4 102.4
.ends

.subckt PM_FULLADDERMIRROR_CIN 3 7 11 15 19 23 27 31 33 34 39 46 49 54 59 64
c98 49 0 0.00402027f
c99 46 0 0.00556459f
c100 39 0 0.00554188f
c101 34 0 0.00293587f
c102 33 0 0.0323792f
c103 31 0 0.00351556f
c104 27 0 0.00277697f
c105 23 0 0.0302034f
c106 19 0 0.0207779f
c107 15 0 0.0327702f
c108 11 0 0.0214859f
c109 7 0 0.032403f
c110 3 0 0.0210378f
r111 43 46 5.72
r112 36 39 5.72
r113 34 64 0.306923
r114 34 49 89.3538
r115 33 34 102.4
r116 31 59 0.336154
r117 31 43 89.3538
r118 30 33 1.5625
r119 30 31 102.4
r120 27 54 0.306923
r121 27 39 89.3538
r122 26 30 2.33929
r123 26 27 102.4
r124 21 49 4.7687
r125 21 23 73.32
r126 17 49 4.7687
r127 17 19 54.21
r128 13 46 1.98872
r129 13 15 87.36
r130 9 46 1.98872
r131 9 11 61.23
r132 5 36 1.98872
r133 5 7 73.32
r134 1 36 1.98872
r135 1 3 54.21
.ends

.subckt PM_FULLADDERMIRROR_COUT_INV 1 3 6 8 10 11 13 14 15 25 29 34 36 37 39 40
+ 44
c105 51 0 0.0118866f
c106 44 0 0.00561595f
c107 40 0 0.00329388f
c108 39 0 0.00495814f
c109 37 0 0.00919746f
c110 36 0 0.0191774f
c111 34 0 0.00329942f
c112 29 0 0.012645f
c113 25 0 0.00138096f
c114 15 0 0.0249593f
c115 14 0 0.00819495f
c116 11 0 0.0739554f
c117 8 0 0.0446997f
c118 6 0 0.0383871f
c119 1 0 0.016802f
r120 48 51 6.5
r121 48 49 89.3538
r122 41 44 5.72
r123 39 40 0.184211
r124 37 49 0.657692
r125 36 37 102.4
r126 34 44 89.3538
r127 33 36 3.16071
r128 33 40 1.09821
r129 33 34 102.4
r130 28 39 0.553571
r131 28 29 102.4
r132 24 29 3.15692
r133 24 25 0.0418175
r134 20 25 0.160909
r135 16 25 0.160909
r136 15 20 2.95231
r137 14 16 0.833077
r138 11 51 1.98872
r139 11 13 63.57
r140 8 51 1.98872
r141 8 10 42.9
r142 4 41 1.98872
r143 4 6 95.16
r144 1 41 1.98872
r145 1 3 32.37
.ends

.subckt PM_FULLADDERMIRROR_NET17 1 2 8
c29 8 0 0.0269203f
c30 2 0 0.0119193f
c31 1 0 0.0276947f
r32 8 9 102.4
r33 4 8 2.72321
r34 4 5 102.4
r35 2 9 1.43231
r36 1 5 1.43231
.ends

.subckt PM_FULLADDERMIRROR_A 1 3 6 8 10 13 17 21 25 29 33 36 38 42 45 48 51 56
c82 56 0 0.0046073f
c83 51 0 0.00455304f
c84 48 0 0.00270869f
c85 45 0 0.00438098f
c86 42 0 0.00298403f
c87 38 0 0.0102055f
c88 33 0 0.00597785f
c89 29 0 0.0341682f
c90 25 0 0.0199449f
c91 21 0 0.0264943f
c92 17 0 0.0269192f
c93 13 0 0.0360199f
c94 8 0 0.0161304f
c95 6 0 0.0594026f
c96 1 0 0.0261779f
r97 48 51 89.3538
r98 42 45 89.3538
r99 39 56 2.08
r100 38 39 89.3538
r101 36 38 0.438462
r102 32 36 0.555385
r103 32 33 89.3538
r104 27 51 4.7687
r105 27 29 77.61
r106 23 51 4.7687
r107 23 25 49.92
r108 19 45 4.7687
r109 19 21 60.45
r110 15 45 4.7687
r111 15 17 88.14
r112 11 56 1.98872
r113 11 13 95.16
r114 8 56 1.98872
r115 8 10 32.37
r116 4 33 4.7687
r117 4 6 95.16
r118 1 33 4.7687
r119 1 3 32.37
.ends

.subckt PM_FULLADDERMIRROR_B 3 5 7 10 12 14 17 21 25 29 32 39 42 44 45 48 51 55
c77 55 0 0.00610847f
c78 51 0 0.00649224f
c79 48 0 0.00306271f
c80 45 0 0.00409475f
c81 44 0 0.00652109f
c82 39 0 0.00411015f
c83 32 0 0.00399769f
c84 29 0 0.0530819f
c85 25 0 0.032387f
c86 21 0 0.0260945f
c87 17 0 0.026925f
c88 12 0 0.0260018f
c89 10 0 0.0265333f
c90 5 0 0.0250225f
c91 3 0 0.0285275f
r92 48 51 89.3538
r93 44 45 89.3538
r94 42 44 0.555385
r95 38 42 0.555385
r96 38 39 89.3538
r97 35 55 5.72
r98 32 35 89.3538
r99 27 51 4.7687
r100 27 29 77.61
r101 23 51 4.7687
r102 23 25 49.92
r103 19 45 4.7687
r104 19 21 60.45
r105 15 45 4.7687
r106 15 17 88.14
r107 12 39 4.7687
r108 12 14 46.41
r109 8 39 4.7687
r110 8 10 81.12
r111 5 55 1.98872
r112 5 7 41.34
r113 1 55 1.98872
r114 1 3 86.19
.ends

.subckt PM_FULLADDERMIRROR_SUM_INV 3 5 7 8 9 15 20
c59 22 0 0.0118351f
c60 20 0 0.00790778f
c61 15 0 0.040918f
c62 8 0 0.0351604f
c63 5 0 0.0681555f
c64 3 0 0.0504814f
r65 19 22 6.5
r66 19 20 89.3538
r67 16 20 0.789231
r68 15 16 102.4
r69 11 15 5.23214
r70 11 12 102.4
r71 9 12 1.16923
r72 8 12 2.99615
r73 5 22 1.98872
r74 5 7 53.43
r75 1 22 1.98872
r76 1 3 53.04
.ends

.subckt PM_FULLADDERMIRROR_NET31 1 2 5 8 9
c28 9 0 0.00900872f
c29 8 0 0.0103622f
c30 5 0 0.00872297f
r31 8 9 102.4
r32 4 8 1.36607
r33 4 5 102.4
r34 2 9 0.789231
r35 1 5 0.789231
.ends

.subckt PM_FULLADDERMIRROR_NET32 1 2 8
c25 8 0 0.0134095f
c26 2 0 0.0132164f
c27 1 0 0.0132138f
r28 8 9 102.4
r29 4 8 1.36607
r30 4 5 102.4
r31 2 9 1.68077
r32 1 5 1.68077
.ends

.subckt PM_FULLADDERMIRROR_COUT 1 2 7
c13 1 0 0.034257f
r14 2 7 2.33846
r15 1 7 1.82692
.ends

.subckt PM_FULLADDERMIRROR_GND 1 2 3 4 5 6 8 17 20 25 31 37 43 49 63
c78 63 0 0.0183226f
c79 62 0 0.00220489f
c80 61 0 0.00220489f
c81 60 0 0.00220489f
c82 59 0 0.00220489f
c83 58 0 0.00220489f
c84 57 0 0.0101506f
c85 49 0 0.0180186f
c86 43 0 0.00878389f
c87 37 0 0.0129242f
c88 31 0 0.0373693f
c89 25 0 0.0286885f
c90 17 0 0.0179026f
c91 8 0 0.0154627f
c92 6 0 0.0163225f
c93 5 0 0.0119108f
c94 4 0 0.0116667f
c95 3 0 0.0113952f
c96 2 0 0.0129017f
c97 1 0 0.0131711f
r98 51 63 0.0418175
r99 50 62 0.160909
r100 49 63 0.160909
r101 49 50 2.13385
r102 45 62 0.0418175
r103 44 61 0.160909
r104 43 62 0.160909
r105 43 44 1.02308
r106 39 61 0.0418175
r107 38 60 0.160909
r108 37 61 0.160909
r109 37 38 1.84154
r110 33 60 0.0418175
r111 32 59 0.160909
r112 31 60 0.160909
r113 31 32 5.20308
r114 27 59 0.0418175
r115 26 58 0.160909
r116 25 59 0.160909
r117 25 26 4.09231
r118 21 58 0.0418175
r119 18 57 0.160909
r120 18 20 1.27154
r121 17 58 0.160909
r122 17 20 0.920769
r123 12 57 0.0418175
r124 8 12 0.584615
r125 6 51 1.63692
r126 5 45 1.63692
r127 4 39 1.63692
r128 3 33 1.63692
r129 2 27 1.63692
r130 1 21 1.63692
.ends

.subckt PM_FULLADDERMIRROR_VDD 2 3 4 5 6 7 8 17 20 25 31 37 43 49 63
c80 63 0 0.0188553f
c81 62 0 0.00227231f
c82 61 0 0.00227231f
c83 60 0 0.00227231f
c84 59 0 0.00227231f
c85 58 0 0.00227231f
c86 57 0 0.0101506f
c87 49 0 0.0182779f
c88 43 0 0.00878389f
c89 37 0 0.0131501f
c90 31 0 0.0400698f
c91 25 0 0.0300151f
c92 17 0 0.0186568f
c93 8 0 0.0154627f
c94 7 0 0.030832f
c95 6 0 0.0214031f
c96 5 0 0.0203824f
c97 4 0 0.0200106f
c98 3 0 0.022477f
c99 2 0 0.022247f
r100 51 63 0.0418175
r101 50 62 0.160909
r102 49 63 0.160909
r103 49 50 2.13385
r104 45 62 0.0418175
r105 44 61 0.160909
r106 43 62 0.160909
r107 43 44 1.02308
r108 39 61 0.0418175
r109 38 60 0.160909
r110 37 61 0.160909
r111 37 38 1.84154
r112 33 60 0.0418175
r113 32 59 0.160909
r114 31 60 0.160909
r115 31 32 5.20308
r116 27 59 0.0418175
r117 26 58 0.160909
r118 25 59 0.160909
r119 25 26 4.09231
r120 21 58 0.0418175
r121 18 57 0.160909
r122 18 20 1.34462
r123 17 58 0.160909
r124 17 20 0.847692
r125 12 57 0.0418175
r126 8 12 0.584615
r127 7 51 3.21538
r128 6 45 3.21538
r129 5 39 3.21538
r130 4 33 3.21538
r131 3 27 3.21538
r132 2 21 3.21538
.ends

.subckt PM_FULLADDERMIRROR_SUM 1 2 7
c8 1 0 0.0613845f
r9 2 7 1.97308
r10 1 7 2.19231
.ends

