************************************************************************
* auCdl Netlist:
* 
* Library Name:  Lab3Part1
* Top Cell Name: FullAdderMirror
* View Name:     schematic
* Netlisted on:  Apr 11 21:52:23 2020
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: Lab3Part1
* Cell Name:    FullAdderMirror
* View Name:    schematic
************************************************************************

.SUBCKT FullAdderMirror A B CIN COUT GND SUM VDD
*.PININFO A:I B:I CIN:I GND:I VDD:I COUT:O SUM:O
MM28 SUM SUM_INV GND GND NMOS_VTL W=90n L=50n m=1
MM25 COUT COUT_INV GND GND NMOS_VTL W=90n L=50n m=1
MM31 net50 B GND GND NMOS_VTL W=270.0n L=50n m=1
MM30 net51 A net50 GND NMOS_VTL W=270.0n L=50n m=1
MM32 net31 B GND GND NMOS_VTL W=180.0n L=50n m=1
MM33 net31 COUT_INV SUM_INV GND NMOS_VTL W=180.0n L=50n m=1
MM29 SUM_INV CIN net51 GND NMOS_VTL W=270.0n L=50n m=1
MM35 GND CIN net31 GND NMOS_VTL W=180.0n L=50n m=1
MM34 GND A net31 GND NMOS_VTL W=180.0n L=50n m=1
MM4 net16 A GND GND NMOS_VTL W=180.0n L=50n m=1
MM3 GND B net16 GND NMOS_VTL W=180.0n L=50n m=1
MM2 net16 CIN COUT_INV GND NMOS_VTL W=180.0n L=50n m=1
MM1 COUT_INV B net55 GND NMOS_VTL W=180.0n L=50n m=1
MM0 net55 A GND GND NMOS_VTL W=180.0n L=50n m=1
MM27 SUM SUM_INV VDD VDD PMOS_VTL W=180.0n L=50n m=1
MM26 COUT COUT_INV VDD VDD PMOS_VTL W=180.0n L=50n m=1
MM16 net32 COUT_INV SUM_INV VDD PMOS_VTL W=360.0n L=50n m=1
MM15 VDD CIN net32 VDD PMOS_VTL W=360.0n L=50n m=1
MM14 VDD A net32 VDD PMOS_VTL W=360.0n L=50n m=1
MM13 net32 B VDD VDD PMOS_VTL W=360.0n L=50n m=1
MM12 SUM_INV CIN net53 VDD PMOS_VTL W=540.0n L=50n m=1
MM11 net53 A net52 VDD PMOS_VTL W=540.0n L=50n m=1
MM10 net52 B VDD VDD PMOS_VTL W=540.0n L=50n m=1
MM9 net17 A VDD VDD PMOS_VTL W=360.0n L=50n m=1
MM8 VDD B net17 VDD PMOS_VTL W=360.0n L=50n m=1
MM7 net17 CIN COUT_INV VDD PMOS_VTL W=360.0n L=50n m=1
MM6 net54 A VDD VDD PMOS_VTL W=360.0n L=50n m=1
MM5 COUT_INV B net54 VDD PMOS_VTL W=360.0n L=50n m=1
.ENDS

